US07582673B2
To a solution of N-(2-amino-4-pyridin-4-ylphenyl)-4-chlorobenzene sulfonamide (0.1 mmol) in pyridine (0.5 mL), 5-bromo-2-methoxy-benzenesulfonyl chloride (0.12 mmol) was added. The reaction mixture was stirred at room temperature for 2 h and then was diluted with ethyl acetate (10 mL). The contents were washed with brine (10 mL), dried over sodium sulfate, and concentrated under vacuum. The residue obtained was purified by column chromatography eluting with hexanes/ethyl acetate (1:1) followed by ethyl acetate to give 49 mg of 5-bromo-N-[2-(4-chlorobenzenesulfonylamino) -5-pyridin-4-ylphenyl]-2-methoxybenzenesulfonamide. LC: Tr 0.94 min, MS: 610.8 (M+1)+.

reactant | N-(2-amino-4-pyridin-4-ylphenyl)-4-chlorobenzene sulfonamide | 0.1 mmol | NC1=C(C=CC(=C1)C1=CC=NC=C1)NS(=O)(=O)C1=CC=C(C=C1)Cl | C17H14ClN3O2S
reactant | 5-bromo-2-methoxy-benzenesulfonyl chloride | 0.12 mmol | BrC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6BrClO3S
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 5-bromo-N-[2-(4-chlorobenzenesulfonylamino) -5-pyridin-4-ylphenyl]-2-methoxybenzenesulfonamide | 49 mg | BrC=1C=CC(=C(C1)S(=O)(=O)NC1=C(C=CC(=C1)C1=CC=NC=C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)OC | C24H19BrClN3O5S2
